US04732995
The general procedure of Example 1 was repeated using, instead of 38.3 g of 3-aminopropyltris(2,2,2-trifluoroethoxy)silane, 31.1 g of 3-aminopropylvinylbis(2,2,2-trifluoroethoxy)silane, 36.1 g of 3-aminopropylphenylbis(2,2,2-trifluoroethoxy)silane, 37.5 g of 3-aminopropylbenzylbis(2,2,2-trifluoroethoxy)silane, 38.1 g of 3-aminotrifluoropropylbis-(2,2,2-trifluoroethoxy)silane, thereby obtaining 22.0 g of 3-bis(2,2,2-trifluoroethoxy)vinylsilylpropyl isocyanate, 28.0 g of 3-bis(2,2,2-trifluoroethoxy)phenylsilylpropyl isocyanate, 22.0 g of 3-bis(2,2,2-trifluoroethoxy)benzylsilylpropyl isocyanate, and 28.0 g of 3-bis(2,2,2-trifluoroethoxy)trifluoropropylsilylpropyl isocyanate. The formation of these compounds was confirmed in the same manner as in Example 1.

reactant | 3-aminopropyltris(2,2,2-trifluoroethoxy)silane | 38.3 g | NCCC[Si](OCC(F)(F)F)(OCC(F)(F)F)OCC(F)(F)F | C9H14F9NO3Si
reactant | 3-aminopropylvinylbis(2,2,2-trifluoroethoxy)silane | 31.1 g | NCCCC=C[SiH](OCC(F)(F)F)OCC(F)(F)F | C9H15F6NO2Si
reactant | 3-aminopropylphenylbis(2,2,2-trifluoroethoxy)silane | 36.1 g | NCCC[Si](OCC(F)(F)F)(OCC(F)(F)F)C1=CC=CC=C1 | C13H17F6NO2Si
reactant | 3-aminopropylbenzylbis(2,2,2-trifluoroethoxy)silane | 37.5 g | NCCC[Si](OCC(F)(F)F)(OCC(F)(F)F)CC1=CC=CC=C1 | C14H19F6NO2Si
reactant | 3-aminotrifluoropropylbis-(2,2,2-trifluoroethoxy)silane | 38.1 g | NC(CC(F)[SiH](OCC(F)(F)F)OCC(F)(F)F)(F)F | C7H10F9NO2Si
product | 3-bis(2,2,2-trifluoroethoxy)vinylsilylpropyl isocyanate | 22.0 g | FC(COC(=C[SiH2]CCCN=C=O)OCC(F)(F)F)(F)F | C10H13F6NO3Si
